US05589478
To a suspension of sodium hydride (65 mg) in dimethylacetamide (0.5 ml) and tetrahydrofuran (0.5 ml) is added dropwise a solution of 4-(2-hydroxy-1,1-dimethylethyl)-N-{6-[2-hydroxyethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (135 mg) in dimethylacetamide (2 ml) and THF (2 ml) solution over period of 5 minutes at room temperature, and thereto is added 5-bromo-2-chloropyrimidine (399 mg). The mixture is stirred at room temperature for 6 days. The reaction mixture is acidified with cold diluted hydrochloric acid, and extracted with ethyl acetate. The organic layer is washed with water and saturated brine, dried over anhydrous sodium sulfate, and evaporated to remove the solvent. The oily residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=100:1), and evaporated to remove the solvent. The resulting crude crystals are recrystallized from methylene chloride/isopropyl ether to give 4-[2-(5-bromopyrimidin-2-yloxy)-l, 1 -dimethylethyl]-N-{6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide (77 mg) as colorless crystals.

reactant | sodium hydride | 65 mg | [H-].[Na+]
reactant | 4-(2-hydroxy-1,1-dimethylethyl)-N-{6-[2-hydroxyethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 135 mg | OCC(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCO | C23H27N3O5S
reactant | 5-bromo-2-chloropyrimidine | 399 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylacetamide | 0.5 ml | CC(=O)N(C)C | C4H9NO
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-[2-(5-bromopyrimidin-2-yloxy)-l, 1 -dimethylethyl]-N-{6-[2-(5-bromopyrimidin-2-yloxy)ethoxy]-5-(4-methylphenyl)pyrimidin-4-yl}benzenesulfonamide | 77 mg | BrC=1C=NC(=NC1)OCC(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)Br | C31H29Br2N7O5S
